US05596097
A solution of 3-chloroperoxybenzoic acid (3.92 g; 55% titre) in dichloromethane (50 mL) is dropped during 5 min into a mixture of 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione (1.98 g) in dichloromethane (20 mL). Care is taken to avoid the addition of the aqueous layer that separates from the dichloromethane solution of 3-chloroperoxybenzoic acid. An exothermic reaction ensues, and at the end of the addition the mixture is refluxed overnight. After cooling to room temperature the reaction mixture is diluted with dichloromethane (50 mL) and the organic solution is washed with water (3×30 mL). After drying over sodium sulfate the organic solution is concentrated to a volume of about 20 mL, diluted with absolute ethanol (30 mL) and concentrated to a small volume. After stirring at 0° C. for 1 h a yellow solid separates which is filtered, to give 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione-2-oxide (1.35 g).

reactant | 3-chloroperoxybenzoic acid | 3.92 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione | 1.98 g | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12FNO5S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione-2-oxide | 1.35 g | FC1=CC=C(C=2C(C=3C=C[N+](=CC3C(C21)=O)[O-])=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12FNO6S
